US04735940
(aa) 26.2 g of methyl 3-trifluoromethylphenylacetate were dissolved in 100 ml of diethyl ether and, after the addition of 8.2 ml of methyl formate, treated with 2.76 g of sodium. The mixture was stirred at room temperature until the reaction was completed and treated with 1N hydrochloric acid while cooling. The organic phase was separated and the aqueous phase was extracted twice with ether. The combined organic phases were washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. Distillation yielded methyl 3-hydroxy-2-(α,α,α-trifluoro-m-tolyl)acrylate as a colorless oil of b.p. 59°-62°/0.2 mm.

reactant | methyl 3-trifluoromethylphenylacetate | 26.2 g | FC(C=1C=C(C=CC1)CC(=O)OC)(F)F | C10H9F3O2
reactant | methyl formate | 8.2 ml | C(=O)OC | C2H4O2
reactant | sodium | 2.76 g | [Na] | Na
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | methyl 3-hydroxy-2-(α,α,α-trifluoro-m-tolyl)acrylate | OC=C(C(=O)OC)C=1C=C(C=CC1)C(F)(F)F | C11H9F3O3
